US09388161B2
HCl (4 M in 1,4-dioxane, 0.32 mL, 1.28 mmol) was added to a solution of (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-4-fluoropiperidin-4-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.072 g, 0.128 mmol) in 1,4-dioxane (0.5 mL), and the reaction mixture stirred at rt for 1 h. The reaction mixture was concentrated and the residue was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford the methyl (S)-5-cyclobutoxy-6-(2-(4-hydroxypiperidin-4-yl)thiazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 460 [M+H]+.

reactant | HCl | 1.28 mmol, 4 M, 0.32 mL | Cl | ClH
reactant | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-4-fluoropiperidin-4-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.128 mmol, 0.072 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C29H38FN3O5S
reactant | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | methyl (S)-5-cyclobutoxy-6-(2-(4-hydroxypiperidin-4-yl)thiazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1N=C(SC1)C1(CCNCC1)O)C(=O)OC)C | C24H31N3O4S
